US08258160B2
Synthesis of N-benzyl-2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as necessary to replace 1-(2-azidoethyl)-4-fluorobenzene with 1-(azidomethyl)-4-fluorobenzene to react with N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 59% yield: mp 114-115° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 7.96 (s, 1H), 7.45-7.19 (m, 7H), 7.12-6.99 (m, 2H), 6.19 (t, J=5.6 Hz, 1H), 5.51 (s, 2H), 4.58 (d, J=5.6 Hz, 2H), 2.66 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.9, 161.7, 157.8, 155.5, 142.9, 137.9, 130.3, 129.6, 128.7, 127.8, 127.6, 125.0, 121.9, 115.3, 53.8, 44.1, 17.2; MS (ES+) m/z 408.3 (M+1).

reactant | 1-(2-azidoethyl)-4-fluorobenzene | N(=[N+]=[N-])CCC1=CC=C(C=C1)F | C8H8FN3
reactant | 1-(azidomethyl)-4-fluorobenzene | N(=[N+]=[N-])CC1=CC=C(C=C1)F | C7H6FN3
reactant | N-benzyl-2-ethynyl-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#C)C | C14H12N2OS
product | N-benzyl-2-(1-(4-fluorobenzyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxamide | 59% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=1N=NN(C1)CC1=CC=C(C=C1)F)C | C21H18FN5OS
